US05607956
1-(2-Furyl)-1-(1,3,5-trimethyl-4-pyrazolyl)ethanol
4-Bromo-1,3,5-trimethylpyrazole was converted into the corresponding 4-lithio compound which was then reacted in situ with 2-acetylfuran.

reactant | 4-Bromo-1,3,5-trimethylpyrazole | BrC=1C(=NN(C1C)C)C | C6H9BrN2
reactant | 2-acetylfuran | C(C)(=O)C=1OC=CC1 | C6H6O2
product | 1-(2-Furyl)-1-(1,3,5-trimethyl-4-pyrazolyl)ethanol | O1C(=CC=C1)C(C)(O)C=1C(=NN(C1C)C)C | C12H16N2O2
